US07777047B2
N-methoxy-N-methyl-2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide
To a solution of N,O-dimethylhydroxylamine hydrochloride (0.28 g) in N,N-dimethylformamide (20 mL) was added triethylamine (0.43 mL) under ice-cooling, and the mixture was stirred for 10 min under ice-cooling. (2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (1.03 g), 1H-1,2,3-benzotriazol-1-ol (0.42 g) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.59 g) were added to the mixture, and the mixture was stirred from under ice-cooling to room temperature for 24 hr. The reaction solution was diluted with ethyl acetate, washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=7:3-10:0), and the obtained pale-yellow crystals were washed with ethyl acetate-hexane to give the title compound (911 mg, yield: 81%) as pale-yellow crystals. MS: 479 (MH+). melting point 153-154° C.

reactant | N,O-dimethylhydroxylamine hydrochloride | 0.28 g | Cl.CNOC
reactant | (2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 1.03 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C18H17N3O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.42 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.59 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.43 mL | C(C)N(CC)CC | C6H15N
product | N-methoxy-N-methyl-2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 911 mg, yield: 81% | CON(C(CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)=O)C | C20H22N4O4S3
